US05360808
1,6-Dihydro-1 -[3-(3-pyridinylcarbonylamino)propyl]-6-oxo-3-pyridinecarboxylic acid
1,6-dihydro-1-[3-(3-pyridinylcarbonylamino)propyl]-6-oxo-3-pyridinecarboxylic acid methyl ester (0.18 g, 0.57 mmol) was hydrolysed in a mixture consisting of methanol (0.7 ml), water (0.7 ml), and 15% aqueous sodium carbonate (0.7 ml) at 60° C. for 1.3 hours. The solution was acidified (to pH 5.5 with acetic acid). The precipitated product was recovered by filtration, washed with water, and dried, MP: 218°-220° C.

reactant | 1,6-dihydro-1-[3-(3-pyridinylcarbonylamino)propyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | 0.57 mmol, 0.18 g | COC(=O)C1=CN(C(C=C1)=O)CCCNC(=O)C=1C=NC=CC1 | C16H17N3O4
reactant | methanol | 0.7 ml | CO | CH4O
reactant | water | 0.7 ml | O | H2O
reactant | sodium carbonate | 0.7 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,6-Dihydro-1 -[3-(3-pyridinylcarbonylamino)propyl]-6-oxo-3-pyridinecarboxylic acid | N1=CC(=CC=C1)C(=O)NCCCN1C=C(C=CC1=O)C(=O)O | C15H15N3O4
